US08314098B2
(Step 1): 5-Chloro-7-morpholin-4-yl-2-(4-thiomorpholin-4-yl-phenyl)-pyrazolo-[1,5-a]pyrimidine
To a solution of 2-(4-bromophenyl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidine (100 mg, 0.25 mM) in toluene (7.0 mL), there were, in order, added sodium tert-butoxide (49 mg, 0.51 mM), tris(dibenzylidene-acetone) dipalladium (12 mg, 0.013 mM), tri-tert-butyl-phosphine (25 μL, 0.10 mM) and thio-morpholine (38 μL, 0.38 mM) and the mixture was stirred at 90° C. for 4 hours. After cooling the mixture to room temperature, water was added thereto and the mixture was extracted with ethyl acetate. The organic phase thus obtained was washed with a saturated aqueous common salt solution, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was washed with methanol to thus give the title compound (60 mg, yield: 57%).

reactant | 2-(4-bromophenyl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidine | 0.25 mM, 100 mg | BrC1=CC=C(C=C1)C1=NN2C(N=C(C=C2N2CCOCC2)Cl)=C1 | C16H14BrClN4O
reactant | sodium tert-butoxide | 0.51 mM, 49 mg | CC(C)([O-])C.[Na+]
reactant | tri-tert-butyl-phosphine | 0.10 mM, 25 μL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | thio-morpholine | 0.38 mM, 38 μL | N1CCSCC1 | C4H9NS
solvent | toluene | 7.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylidene-acetone) dipalladium | 0.013 mM, 12 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | water | O | H2O
product | 5-Chloro-7-morpholin-4-yl-2-(4-thiomorpholin-4-yl-phenyl)-pyrazolo-[1,5-a]pyrimidine | 60 mg, yield: 57% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=C(C=C2)N2CCSCC2 | C20H22ClN5OS
